Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left facial and hand numbness/weakness, slurred speech
 
Major Surgical or Invasive Procedure:
Transesophageal echocardiogram ___

 
History of Present Illness:
The pt is a ___ yo M without significant pmh, who presents as a 
transfer from ___ with brief episode of left face 
numbness, slurred speech and left arm numbness. 

He was in his usual state of good health until 8:30pm last night 
at which time he had finished a long conversion over the phone. 
He noticed that his daughter was still up and decided to help 
her get to bed. He was walking up the stairs with his daughter, 
when he noted an acute onset of lower left face numbness (as if 
he had just gotten novocaine at a dentist's office) and an 
awkward/strange/heavy feeling in his left arm. He attempted to 
communicate this problem to his wife but then noted marked 
slurred speech. He did not have any difficulty understanding her 
and - other than the dysarthria - did not have difficulty 
generating words or phrases.

They called EMS but his slurred speech had resolved before EMS 
got to the house, within minutes. When EMS arrived they tested 
his strength by fingergrip, and said that the strength in his 
left arm/hand was normal although he himself noted that it 
didn't feel quite right. The numbness and feeling of weakness in 
his hand had resolved by the time they got to ___, in 
about ___ minutes. He has never had such an episode 
beforehand. No visual changes or headache associated with the 
episode. 

Of note, he was wakeboarding over the holiday weekend and took 
several hard falls onto the surface of the water and has had 
lingering neck stiffness (perhaps worse on the left) since that 
time. This was the first time he had attempted the sport. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
- right eye cataract (since childhood, states that he is left 
eye dominant and that the cataract affects his acuity in the 
right eye by only a small degree)
- seasonal allergies
- hernia repair in adolescence
 
Social History:
___
Family History:
Sister has bipolar disorder, mother had mitral valve prolapse, 
migraines and stroke in her ___. No family history of blood 
clots, though his mother did have 1 miscarriage (out of 5 
pregnancies). Otherwise no neurological disease, neurological 
malignancies.
 
Physical Exam:
ADMISSION EXAM:
Vitals: T: 98.4  P: 58  R: 16  BP: 117/80  SaO2: 100%RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted.
 
Neurologic: 

-Mental Status: Alert, oriented x 3.  Able to relate history 
without difficulty.  Attentive, able to name ___ backward 
without difficulty. Language is fluent with intact repetition 
and comprehension.  Normal prosody.  There were no paraphasic 
errors. Pt. was able to name both high and low frequency 
objects.  Able to read without difficulty.  Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands. Pt. was able to register 3 objects and recall ___ at 5 
minutes.  The pt. had good knowledge of current events.  There 
was no evidence of apraxia or neglect.
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk on the right and 4 to 3mm on the 
left.  VFF to confrontation. Funduscopic exam revealed no 
papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. Mild pronator drift on the 
left.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5
 
-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   1 
R  2  2    2    2   1
Plantar response was flexor bilaterally.
 
-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.
 
-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

DISCHARGE EXAM:
unchanged from admission.
 
Pertinent Results:
ADMISSION LABS:
___ 12:24AM BLOOD WBC-5.5 RBC-4.20* Hgb-13.4* Hct-39.6* 
MCV-94 MCH-31.9 MCHC-33.8 RDW-13.3 Plt ___
___ 12:24AM BLOOD ___ PTT-32.2 ___
___ 12:24AM BLOOD Glucose-102* UreaN-18 Creat-0.8 Na-140 
K-3.9 Cl-105 HCO3-31 AnGap-8
___ 08:00AM BLOOD ALT-21 AST-27 LD(LDH)-152 CK(CPK)-506* 
AlkPhos-43 TotBili-0.5
___ 08:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 08:00AM BLOOD Albumin-4.1 Calcium-9.1 Phos-3.3 Mg-2.3 

RELEVANT LABS:
___ 08:00AM BLOOD %HbA1c-5.4 eAG-108
___ 08:00AM BLOOD Triglyc-49 Cholest-165 HDL-66 CHOL/HD-2.5 
LDLcalc-89

___ 04:50AM BLOOD TSH-1.7

HYPERCOAG WORK UP:
___ 06:10AM BLOOD ___ 06:10AM BLOOD Lupus-NEG
___ 06:10AM BLOOD ___

___ 06:10AM BLOOD AT-PND ProtCFn-PND ProtSFn-PND
___ 06:10AM BLOOD ACA IgG-PND ACA IgM-PND
___ 06:10AM BLOOD Homocys-PND
___ 06:10AM BLOOD ANTITHROMBIN ANTIGEN-PND
___ 04:50AM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND

IMAGING:
CXR ___: No acute cardiopulmonary process.

CTA HEAD/NECK ___: 
1.  No acute intracranial hemorrhage and no evidence of 
thromboembolic
vascular filling defect.
2.  No hemodynamically significant carotid stenosis.
3.  6mm right thyroid nodule.

MRI HEAD ___:  Tiny recent acute infarctions in the cortex of 
the right posterior frontal and anterior parietal lobes.  
Apparent chronic right inferior cerebellar hemisphere 
infarction. Multiple non-acute supratentorial white matter 
signal abnormalities, nonspecific but also compatible with 
chronic microvascular infarcts, unusual for age. An embolic 
source should be considered.

TTE ___: No atrial septal defect or patent foramen ovale is 
seen by 2D, color Doppler or saline contrast with maneuvers. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%). Transmitral and tissue Doppler 
imaging suggests normal diastolic function, and a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are mildly thickened. 
There is no mitral valve prolapse. Trivial mitral regurgitation 
is seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

IMPRESSION: No cardiac source of embolism identified. Preserved 
global and regional biventricular systolic function. No 
significant valvular abnormality seen. 

TEE ___: No mass/thrombus is seen in the left atrium or left 
atrial appendage. No spontaneous echo contrast is seen in the 
left atrial appendage. A patent foramen ovale is present (color 
flow imaging as well as bubble study at rest were positive for 
trace flow across flap in fossa ovalis). Overall left 
ventricular systolic function is normal (LVEF>55%). The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 

Ultrasound of bilateral lower extremity ___: IMPRESSION: No 
evidence of deep vein thrombosis in either right or left 
extremity. 
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
[] f/u on hypercoagulable work up: Antithrombin III, protein C, 
protein S, Anticardiolipin IgM and IgG, homocysteine and 
beta-glycoprotein are still pending at the time of discharge.
- ___ and lupus anticoagulants are negative
- patient will need prothrombin gene mutation and factor V 
leiden as outpatient.
[] patient with incidental finding of thyroid nodule on CTA of 
neck. TSH was wnl, but will need outpatient ultrasound for 
further evaluation.
-------------------
[ AHA/ASA Core Measures for Ischemic Stroke and Transient 
Ischemic Attack ]
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No [patient 
refused heparin SQ but pneumoboots were used and ambulation was 
encouraged]
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL =89) - () No
5. Intensive statin therapy administered? (for LDL > 100) () Yes 
- (x) No (if LDL >100, Reason Not Given: )
6. Smoking cessation counseling given? () Yes - (x) No (Reason 
(x) non-smoker - () unable to participate)
7. Stroke education given? (x) Yes - () No
8. Assessment for rehabilitation? () Yes - (x) No
9. Discharged on statin therapy? () Yes - (x) No (if LDL >100, 
Reason Not Given: )
10. Discharged on antithrombotic therapy? (x) Yes (Type: (x) 
Antiplatelet - () Anticoagulation) - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
--------------------

Mr. ___ is a ___ yo RH M without significant vascular risk 
factors but with recent mild neck trauma, who presents with 
transient episode of left face/arm numbness/weakness and 
possible ataxia, found to have small strokes on the R 
frontal/parietal lobes so patient was started on full dose 
aspirin. CTA of head and neck was done and did not show any 
dissection. MRI of the head did show evidence of new and old 
strokes, so further work up for etiology of the stroke was done. 
His TTE did not show any cardiac source of embolism, but TEE 
showed a small patent foramen ovale. His other risk factors such 
as A1C and lipid panel were within normal limits. Ultrasound of 
his legs were done and did not show any deep vein thrombosis. 
Hypercoagulable studies were sent off during this 
hospitalization, and some of the studies are still pending at 
the time of discharge.

# Neuro: CTA without dissection or stenosis, MRI with acute 
strokes in right frontal/parietal lobe; it also shows possible 
old strokes. He was allowed to autoregulate his BP and monitored 
on telemetry without events. His lipid panel showed HDL 66, LDL 
89, Triglyceride 49. A1C 5.4%. TTE did not show a source of 
cardiac embolus but TEE did show a small PFO. Given patient's 
young age and no obvious risk factors, hypercoagulable work up 
was done and was negative for ___ and lupus anticoagulants, but 
these studies are still pending: Antithrombin III, protein C, 
protein S, Anticardiolipin IgM and IgG, homocysteine and 
beta-glycoprotein. Ultrasound of bilateral legs were done to 
rule out deep vein thrombosis which could embolize to brain 
through PFO, but were negative for blood clots. Patient was 
started on full dose aspirin during this hospitalization to 
decrease risk of recurrent stroke.

# CV: His troponin was negative on admission, and pt was 
monitored on telemetry without events. Blood pressure was 
allowed to autoregulate. As his lipid panel was wnl, he was not 
started on any statins. TTE/TEE showed normal cardiac function. 

# Allergies: seasonal allergies, continued on home zyrtec. 

# FEN: pt passed bedside swallow eval, started on heart 
healthy/low sodium diet (at patient's request). 

# PPx: 
- DVT: for DVT prophylaxis, heparin SQ TID ordered and offered 
with explanation about importance of DVT prophylaxis in the 
hospital, but patient refused. Patient was encouraged to 
ambulate throughout the day to minimize the risk of DVT. 
Pneumoboots were ordered for when in bed.
- bowel regimen

# Code: Full
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. ZYRtec *NF* 10 mg Oral daily 

 
Discharge Medications:
1. ZYRtec *NF* 10 mg Oral daily 
2. Aspirin 325 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: cryptogenic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neurologic Status: anisocoria L>R, otherwise normal cranial 
nerves, strength, sensation and coordination.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure to take care of you at ___ 
___. You were transferred from ___ for 
your left facial droop, dysarthria (slurred speech) and 
numbness/weakness of your left hand. There was a concern for 
dissection of vessels in your neck given your recent 
wakeboarding/trauma, but CT angiography of your neck vessels did 
not show any dissection. 

MRI of your brain showed that you did have a very recent stroke, 
and likely also had an old one. Given these findings, we looked 
for source of stroke with ultrasound of your heart, and the 
transoesophageal echocardiogram showed a patent foramen ovale 
(PFO). Ultrasound of your legs was done to see if there was any 
blood clots, but it did not show any. Laboratory studies for 
hypercoagulability (increased risk of blood clotting) was sent 
off, some of them came back negative, but others are still 
pending and will need to be followed up on. 

You were started on full dose aspirin for prevention of further 
strokes. 
 
Followup Instructions:
___